US04460508
To a suspension of 3.8 g of 2-(2-aminobenzyl)imidazole in 38 ml of tetrahydrofuran and 3.23 ml of triethylamine was added dropwise a solution of 5.5 g of 4-ethoxycarbonyl-1-piperazinyl-thiocarbonyl chloride in 10 ml of methylene chloride at room temperature. The mixture was stirred for 1 week and the suspension filtered. The filtrate was washed with first 10% aqueous potassium carbonate, then with water, dried and evaporated to dryness to give amorphous 1-[2-(2-imidazolylmethyl)phenylthiocarbamoyl]-4-ethoxycarbonylpiperazine, characterized by NMR.

reactant | 2-(2-aminobenzyl)imidazole | 3.8 g | NC1=C(CC=2NC=CN2)C=CC=C1 | C10H11N3
reactant | 4-ethoxycarbonyl-1-piperazinyl-thiocarbonyl chloride | 5.5 g | C(C)OC(=O)N1CCN(CC1)C(=S)Cl | C8H13ClN2O2S
solvent | tetrahydrofuran | 38 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 3.23 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-(2-imidazolylmethyl)phenylthiocarbamoyl]-4-ethoxycarbonylpiperazine | N1C(=NC=C1)CC1=C(C=CC=C1)NC(=S)N1CCN(CC1)C(=O)OCC | C18H23N5O2S
